US07951954B2
d) (2-Methoxy-benzyl)-{3-[2-(hydroxy)-ethyl]-benzyl}-carbamic acid tert-butyl ester
(2-Methoxy-benzyl)-{3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzyl}-carbamic acid tert-butyl ester (51 g) was dissolved in a mixture of THF (250 mL), AcOH (225 mL) and water (150 mL) and the resulting mixture refluxed for a total of 10 hours. The majority of the tetrahydrofuran and acetic acid was evaporated and the pH of was adjusted to 8 using saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted with ethyl acetate (3×250 mL) and the combined organics were washed with water (250 mL), brine (250 mL), dried over sodium sulfate, filtered and evaporated. The crude material was purified in two portions by column chromatography eluting with dichloromethane:ethyl acetate (95:5 to 80:20 gradient) to give a yellow oil (total of 17.2 g).

reactant | (2-Methoxy-benzyl)-{3-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-benzyl}-carbamic acid tert-butyl ester | 51 g | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)CCOC1OCCCC1)CC1=C(C=CC=C1)OC)=O | C27H37NO5
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | AcOH | 225 mL | CC(=O)O | C2H4O2
solvent | water | 150 mL | O | H2O
product | (2-Methoxy-benzyl)-{3-[2-(hydroxy)-ethyl]-benzyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC(=CC=C1)CCO)CC1=C(C=CC=C1)OC)=O | C22H29NO4
